US08791288B2
spiro[4.5]dec-6-en-8-one
With stirring under nitrogen atmosphere at room temperature, a mixture of 13.4 g of 8-spiro[4.5]decanone and 80 ml of tetrahydrofuran was added dropwise to a tetrahydrofuran solution of 0.205 mol methylmagnesium chloride (which had been prepared from 5.0 g of metallic magnesium, 100 ml of tetrahydrofuran and chloromethane), during which time the temperature was kept below 50° C. The reaction mixture was cooled to room temperature, after which a saturated ammonium chloride aqueous solution was added to stop the reaction. Through ordinary work-up of extraction, washing and drying, and subsequent concentration under reduced pressure, there was obtained 14.43 g (yield 99%) of the target compound, 8-methylspiro[4.5]decan-8-ol. This compound had a purity high enough to use in the subsequent step without further purification.

reactant | 8-spiro[4.5]decanone | 13.4 g | C1CCCC12CCC(CC2)=O | C10H16O
reactant | methylmagnesium chloride | 0.205 mol, 100 ml, 5.0 g | C[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 8-methylspiro[4.5]decan-8-ol | CC1(CCC2(CCCC2)CC1)O | C11H20O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | spiro[4.5]dec-6-en-8-one | 14.43 g, yield 99% | C1CCCC12C=CC(CC2)=O | C10H14O
